US09119868B2
A suspension of 6-(N-(4-bromo-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (240 mg, 0.42 mmol), potassium acetate (123 mg, 1.26 mmol), bis(pinacolato)diboron (533 mg, 2.1 mmol) and PdCl2(dppf) (68.5 mg, 0.084 mmol) in 1,4-dioxane (30 mL) was heated at 100° C. under nitrogen with stirring for 16 h. The solution was cooled to room temperature, filtered, concentrated, and purified by column chromatography to afford 5-cyclopropyl-6-(N-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (200 mg, 0.32 mmol, 76% yield) as a light yellow solid. LCMS (m/z, ES+)=623 (M+H+).

reactant | 6-(N-(4-bromo-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.42 mmol, 240 mg | BrC1=CC(=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H21BrF2N2O4S
reactant | potassium acetate | 1.26 mmol, 123 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.1 mmol, 533 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.084 mmol, 68.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-cyclopropyl-6-(N-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.32 mmol, 200 mg, 76% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C32H33BF2N2O6S
